Horloge_DCF
*SPICE Netlist generated by Advanced Sim server on 16/06/2022 15:19:30
.options MixedSimGenerated

*Schematic Netlist:
RR1 NetHDR_DE0_1_28 NetR1_2 15
RR2 NetHDR_DE0_1_26 NetR2_2 15
RR3 NetHDR_DE0_1_24 NetR3_2 15
RR4 NetHDR_DE0_1_22 NetR4_2 15
RR5 NetHDR_DE0_1_20 NetR5_2 15
RR6 NetHDR_DE0_1_18 NetR6_2 15
RR7 NetHDR_DE0_1_16 NetR7_2 15
RR8 NetHDR_DE0_1_14 NetR8_2 15

.PLOT {NetHDR_DE0_1_14}

*Selected Circuit Analyses:
.TRAN 0.1u 5u 0 0.1u

.END
